US04091011
e. Ethyl (3-amino-2,4-dichloro-5-cyanophenyl)-oxamate
A solution of 32.3 g. (0.16 mole) of 2,4-dichloro-3,5-diaminobenzonitrile in 100 ml. of dimethyl-formamide, 250 ml. of ethyl acetate and 38.4 g. (0.38 mole) of triethylamine is cooled to 0° in an ice bath. To the solution is added 51.87 g. (0.38 mole) of ethyl oxalyl chloride and the temperature is kept below 18°. The reaction mixture is stirred in the ice-bath for 1 hour and allowed to warm to room temperature overnight.

reactant | 2,4-dichloro-3,5-diaminobenzonitrile | 0.16 mole | ClC1=C(C#N)C=C(C(=C1N)Cl)N | C7H5Cl2N3
reactant | dimethyl-formamide | CN(C=O)C | C3H7NO
reactant | triethylamine | 0.38 mole | C(C)N(CC)CC | C6H15N
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Ethyl (3-amino-2,4-dichloro-5-cyanophenyl)-oxamate | NC=1C(=C(C=C(C1Cl)C#N)NC(C(=O)OCC)=O)Cl | C11H9Cl2N3O3
